US05364867
) 6.7 g 4-(3-methoxyphenyl)-1-(3-phenylpropyl)piperidine hydrochloride was refluxed with 80 ml 48% HBr for an hour. The products were cooled, the aqueous layer decanted and concentrated in vacuo. The resulting residue and insolubles were treated with excess saturated sodium bicarbonate and extracted with methylene chloride twice. The methylene chloride layer was washed twice with saturated bicarbonate and dried over magnesium sulfate and concentrated in vacuo. The resulting viscous oil was taken up in 50 ml acetone and HCl was added, resulting in precipitation. The precipitate was filtered off affording 8.6 g of crude product. The product was recrystallized from 110 ml absolute ethanol and 50 ml ether, yielding 4-(3-hydroxyphenyl)-1-(3-phenylpropyl)piperidine hydrochloride, melting point 211°-213° C.

reactant | 4-(3-methoxyphenyl)-1-(3-phenylpropyl)piperidine hydrochloride | 6.7 g | Cl.COC=1C=C(C=CC1)C1CCN(CC1)CCCC1=CC=CC=C1
solvent | HBr | 80 ml | Br | BrH
product | 4-(3-hydroxyphenyl)-1-(3-phenylpropyl)piperidine hydrochloride | Cl.OC=1C=C(C=CC1)C1CCN(CC1)CCCC1=CC=CC=C1 | InChI=1S/C20H25NO.ClH/c22-20-10-4-9-19(16-20)18-11-14-21(15-12-18)13-5-8-17-6-2-1-3-7-17;/h1-4,6-7,9-10,16,18,22H,5,8,11-15H2;1H
